US06166219
Production of N-benzenesulfonyl-3-amino-4-nitrobenzamide
N,N'-carbonyldiimidazole (28.9 g) was added to a solution of 20.0 g of 3-acetylamino-4-nitrobenzoic acid in 300 ml of N,N-dimethylformamide, and the mixture was stirred at room temperature for 1 hour. Further, 28.00 g of benzenesulfonamide and 27.16 g of diazabicycloundecene were added thereto, and the mixture was stirred at 100° C. for 4 days. The solvent was distilled off under reduced pressure. Chloroform and a 10% sodium hydroxide aqueous solution were added to the residue, and the mixture was vigorously stirred. The aqueous layer was neutralized with 10% hydrochloric acid, and the mixture was vigorously stirred with the addition of chloroform. The crystals precipitated were separated through filtration, and were dried to 14.4 g of N-benzenesulfonyl-3-amino-4-nitrobenzamide.

reactant | 3-acetylamino-4-nitrobenzoic acid | 20.0 g | C(C)(=O)NC=1C=C(C(=O)O)C=CC1[N+](=O)[O-] | C9H8N2O5
reactant | benzenesulfonamide | 28.00 g | C1(=CC=CC=C1)S(=O)(=O)N | C6H7NO2S
reactant | diazabicycloundecene | 27.16 g | C1(=NNCCCCCCCC1)C1=CCCCCCCCCC1 | C20H36N2
solvent | N,N-dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
product | N-benzenesulfonyl-3-amino-4-nitrobenzamide | C1(=CC=CC=C1)S(=O)(=O)NC(C1=CC(=C(C=C1)[N+](=O)[O-])N)=O | C13H11N3O5S
